USRE029835
1-(2,3,5-tri-O-benzoyl-β-D-ribofuranosyl)-1,2,4-triazole-3-carboxylic acid methyl ester (fusion procedure)
A mixture of methyl 1,2,4-triazole-3-carboxylate (12.7 g., 100 mmole) and 1-O-acetyl-2,3,5-tri-O-benzoyl-β-D-ribofuranose (55.4 g., 110 mmole) was heated in an oil bath maintained at 160-165°. After the sugar had melted, bis(p-nitrophenyl) phosphate (400 mg.) was added with stirring and the mixture was heated under diminished pressure at 160-165° for 15-20 min. Crystallization of the residue from ethyl acetate-ethanol provided 42.5 g. (74.5%) of product with M.P. 137-139°.

reactant | methyl 1,2,4-triazole-3-carboxylate | 100 mmole, 12.7 g | N1N=C(N=C1)C(=O)OC | C4H5N3O2
reactant | 1-O-acetyl-2,3,5-tri-O-benzoyl-β-D-ribofuranose | 110 mmole, 55.4 g | C(C)(=O)O[C@H]1[C@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O | C28H24O9
reactant | bis(p-nitrophenyl) phosphate | 400 mg | P(=O)(OC1=CC=C(C=C1)[N+](=O)[O-])(OC1=CC=C(C=C1)[N+](=O)[O-])[O-]
product | 1-(2,3,5-tri-O-benzoyl-β-D-ribofuranosyl)-1,2,4-triazole-3-carboxylic acid methyl ester | COC(=O)C1=NN(C=N1)[C@H]1[C@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O | C30H25N3O9
